US03995056
6.96 g of 3-(3'-p-chlorobenzoyl-phenyl)-propionic acid and 70 ml of thionyl chloride were refluxed for 3 hours and then evaporated to dryness. The residue was taken up in 100 ml of benzene and evaporated to dryness to obtain 8.7 g of 3-(3'-p-chlorobenzoyl-phenyl)-propionyl chloride which was used as is.

reactant | 3-(3'-p-chlorobenzoyl-phenyl)-propionic acid | 6.96 g | ClC1=CC=C(C(=O)C=2C=C(C=CC2)CCC(=O)O)C=C1 | C16H13ClO3
reactant | thionyl chloride | 70 ml | S(=O)(Cl)Cl | Cl2OS
product | 3-(3'-p-chlorobenzoyl-phenyl)-propionyl chloride | 8.7 g | ClC1=CC=C(C(=O)C=2C=C(C=CC2)CCC(=O)Cl)C=C1 | C16H12Cl2O2
